US04748239
(C) 1,3,4,5-tetrahydro-3-(Methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one
A solution containing 11.97 (33.5 mmol) of [2-(2-aminophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester and 9.2 ml of 25% sodium methoxide (40.2 mmol) in 80 ml of methanol was refluxed for 1.5 hours and cooled to room temperature. Excess 1M hydrochloric acid solution was then added and the resulting precipitated product was removed by filtration to give 9.18 g of pure material, melting point 217°-219° C.

reactant | [2-(2-aminophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | NC1=C(C=CC=C1)CC(C1=CC=C(C=C1)OC)C(C(=O)OC)C(=O)OC | C20H23NO5
reactant | sodium methoxide | 40.2 mmol, 9.2 ml | C[O-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
product | 1,3,4,5-tetrahydro-3-(Methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 9.18 g | COC(=O)C1C(NC2=C(CC1C1=CC=C(C=C1)OC)C=CC=C2)=O | C19H19NO4
